US09278950B2
Step 3. 3-Amino-N-{4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}-7-(2-oxopiperidin-1-yl)quinoline-2-carboxamide
A mixture of benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(2-oxopiperidin-1-yl)quinolin-3-yl]carbamate (0.005 g, 0.007 mmol) in 2 mL of 33% HBr in AcOH was stirred at room temperature for 2 h. The mixture was evaporated to dryness under reduced pressure. The resulting residue was dissolved in 4 mL of MeOH and treated with 0.5 mL of NH4OH solution. The mixture was filtered and the filtrate was purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 30 mL/min.) to afford the title compound. LCMS calc. for C26H32N7O2 [M+H]: m/z=474.3. found: 474.6.

reactant | benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(2-oxopiperidin-1-yl)quinolin-3-yl]carbamate | 0.007 mmol, 0.005 g | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1C(CCCC1)=O | C39H45N7O6
solvent | HBr | 2 mL | Br | BrH
solvent | AcOH | CC(=O)O | C2H4O2
product | 3-Amino-N-{4-[(3S,5R)-3-amino-5-methylpiperidin-1-yl]pyridin-3-yl}-7-(2-oxopiperidin-1-yl)quinoline-2-carboxamide | NC=1C(=NC2=CC(=CC=C2C1)N1C(CCCC1)=O)C(=O)NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)N | C26H31N7O2
